US08536187B2
(R)-4-(1-Amino-ethyl)-N-tert-butyl-benzenesulfonamide was synthesized in a manner analogous to (R)-4-(1-Amino-propyl)-N-tert-butyl-benzenesulfonamide in Example 12, using (R)-1-phenylethanamine in place of (R)-1-phenylpropan-1-amine.

reactant | (R)-4-(1-Amino-propyl)-N-tert-butyl-benzenesulfonamide | N[C@H](CC)C1=CC=C(C=C1)S(=O)(=O)NC(C)(C)C | C13H22N2O2S
reactant | (R)-1-phenylethanamine | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
product | (R)-4-(1-Amino-ethyl)-N-tert-butyl-benzenesulfonamide | N[C@H](C)C1=CC=C(C=C1)S(=O)(=O)NC(C)(C)C | C12H20N2O2S
